US05298652
The reaction of 5-[(12-phenoxydodecyl)oxy]-2-(phenylmethoxy) benzoic acid chloride with diethyl iminodiacetate under conditions described in Example 80 gave N-(2-ethoxy-2-oxoethyl)-N-[5-[(12-phenoxydodecyl)oxy]-2-(phenylmethoxy)benzoyl]glycine ethyl ester (56% yield, mp 49°-50° ). The structure was confirmed by nmr and mass spectra.

reactant | 5-[(12-phenoxydodecyl)oxy]-2-(phenylmethoxy) benzoic acid chloride | O(C1=CC=CC=C1)CCCCCCCCCCCCOC=1C=CC(=C(C(=O)Cl)C1)OCC1=CC=CC=C1 | C32H39ClO4
reactant | diethyl iminodiacetate | N(CC(=O)OCC)CC(=O)OCC | C8H15NO4
product | N-(2-ethoxy-2-oxoethyl)-N-[5-[(12-phenoxydodecyl)oxy]-2-(phenylmethoxy)benzoyl]glycine ethyl ester | 56% yield | C(C)OC(CN(C(C1=C(C=CC(=C1)OCCCCCCCCCCCCOC1=CC=CC=C1)OCC1=CC=CC=C1)=O)CC(=O)OCC)=O | C40H53NO8
